US07276603B2
A mixture of 5-fluoro-benzofuran-3 (2H)-one (1.52 g, 10 mmol) and (carboxymethylene)triphenylphosphorane (5.22 g, 15 mmol) was refluxed in toluene (100 ml) for 48 hrs. At the end, reaction mixture was concentrated and loaded over a silica-gel column. The column was eluted with hexane (500 ml) and then with 25% ethyl acetate. The product, ethyl(5-fluoro-1-benzofuran-3-yl)acetate, was obtained as a white oil. Yield: 1.8 g (80%); (M+H): 223.

reactant | 5-fluoro-benzofuran-3 (2H)-one | 10 mmol, 1.52 g | FC=1C=CC2=C(C(CO2)=O)C1 | C8H5FO2
reactant | (carboxymethylene)triphenylphosphorane | 15 mmol, 5.22 g | C(=O)(O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl(5-fluoro-1-benzofuran-3-yl)acetate | C(C)OC(CC1=COC2=C1C=C(C=C2)F)=O | C12H11FO3
